US05556858
2,3-Dihydro-2-[2-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethyl]-3-methylene-1H-isoindol-1-one hydrochloride
To the solution of 2,3-dihydro-2-[2-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethyl]-3-hydroxy-3-methyl-1H-isoindol-1-one (4.88 g, 11.9 mmol) in chloroform (50 ml) was added HCl ether (1M, 20 ml) solution. A precipitate formed. This mixture was stirred for 18 hours at room temperature. The mixture was basified with triethylamine and washed with brine. The organic solution was dried and concentrated to a crude material. The purification was done by flash chromatography over silica gel column (SiO2, 60 g; eluted with DCM). The pure product thus obtained weighed 3.28 g (70%). Treatment with HCl .ether solution in ethanol gave 1.52 g of white crystals, m.p.=261°-263° C.

reactant | 2,3-dihydro-2-[2-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethyl]-3-hydroxy-3-methyl-1H-isoindol-1-one | 11.9 mmol, 4.88 g | FC1=CC2=C(C(=NO2)C2CCN(CC2)CCN2C(C3=CC=CC=C3C2(C)O)=O)C=C1 | C23H24FN3O3
reactant | HCl ether | 1M, 20 ml | Cl.CCOCC
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | HCl | Cl | ClH
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ethanol | C(C)O | C2H6O
solvent | ether | CCOCC | C4H10O
product | 2,3-Dihydro-2-[2-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethyl]-3-methylene-1H-isoindol-1-one hydrochloride | 1.52 g | Cl.FC1=CC2=C(C(=NO2)C2CCN(CC2)CCN2C(C3=CC=CC=C3C2=C)=O)C=C1 | InChI=1S/C23H22FN3O2.ClH/c1-15-18-4-2-3-5-19(18)23(28)27(15)13-12-26-10-8-16(9-11-26)22-20-7-6-17(24)14-21(20)29-25-22;/h2-7,14,16H,1,8-13H2;1H
